US07902400B2
A mixture of 0.12 g of 2-methylcyclopentylamine, 0.2 ml of triethylamine and 1 ml of ethyl acetate was added dropwise under ice cooling to a mixture of 1 ml of ethyl acetate and 0.23 g of 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride. The mixture obtained was stirred at room temperature for 12 hours. Then, the reaction mixture was subjected to silica gel column chromatography to obtain 0.07 g of N-(2-methylcyclopentyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 54 of the present invention) represented by the formula:

reactant | 2-methylcyclopentylamine | 0.12 g | CC1C(CCC1)N | C6H13N
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride | 0.23 g | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)F | C10H5ClF2O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-methylcyclopentyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | 0.07 g | CC1C(CCC1)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C16H17F2NO2
